US04981873
(a) Ethyl 8-hydroxy-3,3-dimethyl-6-thiaoctanoate
A mixture of 50 ml. dimethyl sulphoxide and 42.2 mmol sodium hydride is maintained at 80° C. for 45 minutes. It is then cooled to ambient temperature, 3.3 g. (42,2 mmol) 2-mercaptoethanol and then 10.0 g. (42,2 mmol) ethyl 5-bromo-3,3-dimethylpentanoate are added thereto and the reaction mixture is stirred for 3 hours at ambient temperature. It is then poured into water and extracted with diethyl ether. The ethereal phase is dried with anhydrous sodium sulphate and then evaporated. After chromatography of the residue on silica gel with a mixture of equal parts by volume of diethyl ether and cyclohexane, there are obtained 6.8 g. (70% of theory) of the desired product in the form of a colourless oil.

reactant | dimethyl sulphoxide | CS(=O)C | C2H6OS
reactant | sodium hydride | 42.2 mmol | [H-].[Na+]
reactant | 2-mercaptoethanol | 42,2 mmol | SCCO | C2H6OS
reactant | ethyl 5-bromo-3,3-dimethylpentanoate | 42,2 mmol | BrCCC(CC(=O)OCC)(C)C | C9H17BrO2
solvent | water | O | H2O
product | Ethyl 8-hydroxy-3,3-dimethyl-6-thiaoctanoate | OCCSCCC(CC(=O)OCC)(C)C | C11H22O3S
